US08871753B2
Step F. tert-Butyl [3-(2-{3-[(tert-butylamino)sulfonyl]-5-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate
The desired compound was prepared according to the procedure of Example B5, step G using tert-butyl [3-(2-{3-amino-5-[(tert-butylamino)sulfonyl]phenyl}ethyl)phenyl]carbamate and 2,4,5-trichloropyrimidine as the starting materials in 35% yield. LCMS for C27H33Cl2N5O4SNa (M+Na)+: m/z=616.2, 618.2.

reactant | tert-butyl [3-(2-{3-amino-5-[(tert-butylamino)sulfonyl]phenyl}ethyl)phenyl]carbamate | NC=1C=C(C=C(C1)S(=O)(=O)NC(C)(C)C)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C23H33N3O4S
reactant | 2,4,5-trichloropyrimidine | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
product | tert-Butyl [3-(2-{3-[(tert-butylamino)sulfonyl]-5-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate | 35% yield | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=C(C1)NC1=NC(=NC=C1Cl)Cl)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C27H33Cl2N5O4S
